US05221676
7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid
Starting from difluoroborane 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylate (1.13 g, 3.3 mmol) and 2-(3-pyrrolidinyl)benzenemethanamine, a procedure analogous to that given in Example 1, provided the fluoroborate ester of the title compound.

reactant | difluoroborane 1-cyclopropyl-6,7-difluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylate | 3.3 mmol, 1.13 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O.FBF
reactant | 2-(3-pyrrolidinyl)benzenemethanamine | N1CC(CC1)C1=C(C=CC=C1)CN | C11H16N2
product | 7-[3-[2-(Aminomethyl)phenyl]-1-pyrrolidinyl]-1-cyclopropyl-6-fluoro-1,4-dihydro-8-methoxy-4-oxo-3-quinolinecarboxylic acid | NCC1=C(C=CC=C1)C1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1OC)C1CC1)C(=O)O)=O)F | C25H26FN3O4
